US08048926B2
Hence, in one exemplary particular, L-DOPA is converted to an ester thereof (e.g., a methyl ester), and is thereafter reacted with an aqueous solution of ammonia, to thereby produce L-Dopamide (2-amino-3-(3,4-dihydroxyphenyl)propaneamide).

reactant | L-DOPA | O=C(O)[C@@H](N)CC1=CC=C(O)C(O)=C1 | C9H11NO4
reactant | ammonia | N | H3N
product | 2-amino-3-(3,4-dihydroxyphenyl)propaneamide | NC(C(=O)N)CC1=CC(=C(C=C1)O)O | C9H12N2O3
